US05576343
15.93 g of (5-cyano-2-benzofuranyl)methyltriphenylphosphonium chloride and 8.29 g of ethyl 2-(4-acetoxyphenyl)-2-oxoacetate were dissolved in a mixture solution of 80 ml of tetrahydrofuran and 80 ml of ethanol. At room temperature, 5.34 g of 1,8-diazabicyclo[5.4.0]-7-undecene was added to the above solution, and the mixture was stirred for 18 hours at the same temperature. The resulting reaction solution was concentrated to dryness, and the residue was purified by silica gel column chromatography using a toluene/ethyl acetate mixture as an eluant to obtain 11.28 g of ethyl 2-(4-acetoxyphenyl)-3-(5-cyano-2-benzofuranyl)acrylate in the form of light yellow crystals as a mixture of E and Z forms.

reactant | (5-cyano-2-benzofuranyl)methyltriphenylphosphonium chloride | 15.93 g | [Cl-].C(#N)C=1C=CC2=C(C=C(O2)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C1
reactant | ethyl 2-(4-acetoxyphenyl)-2-oxoacetate | 8.29 g | C(C)(=O)OC1=CC=C(C=C1)C(C(=O)OCC)=O | C12H12O5
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 5.34 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | ethyl 2-(4-acetoxyphenyl)-3-(5-cyano-2-benzofuranyl)acrylate | 11.28 g | C(C)(=O)OC1=CC=C(C=C1)C(C(=O)OCC)=CC=1OC2=C(C1)C=C(C=C2)C#N | C22H17NO5
